US04599451
Zirconium tetrachloride (23.4 g, 0.1 mole) was added to phenol (141.2 g, 1.5 moles). The mixture was slowly heated to 157° C. under nitrogen and maintained at this temperature overnight while allowing HCl to escape. The mixture was cooled to ca. 100° C., and n-propyl disulfide (150.3 g, 1 mole) was added. The mixture was heated under nitrogen while n-propyl mercaptan was removed continuously by distillation. Heating was continued for a total of 8 hours during which temperature slowly increased to 203° C. Distillation of the mixture at 0.5 mm mercury to a maximum head temperature of 115° C. yielded 138.1 g of distillate. GC analysis indicated the distillate contained 49.3 g phenol (35% recovered) and 67.2 g of ortho-(n-propylthio)phenol (40% yield). Fractional distillation through a 5 inch Vigreux column yielded, after removal of phenol, a main fraction of 99.4% pure ortho-(n-propylthio)phenol distilling at 135° C. at 30 mm mercury.

reactant | phenol | 1.5 moles, 141.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | HCl | Cl | ClH
reactant | n-propyl disulfide | 1 mole, 150.3 g | C(CC)SSCCC | C6H14S2
reactant | n-propyl mercaptan | C(CC)S | C3H8S
reactant | phenol | 49.3 g | C1(=CC=CC=C1)O | C6H6O
catalyst | Zirconium tetrachloride | 0.1 mole, 23.4 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
product | ortho-(n-propylthio)phenol | 67.2 g, 40% yield | C(CC)SC1=C(C=CC=C1)O | C9H12OS
